US07964608B2
4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (89 mg, 0.3 mmol) was treated with 3,4-dimethoxy-aniline following general procedure B to afford 4-(3,4-dimethoxy-phenylamino)-8-methoxy-quinoline-3-carboxylic acid ethyl ester (103 mg). Thus obtained amino-ester (38 mg, 0.1 mmol) was subjected to reaction with ethyl isocyanate (0.5 mmol) according to general procedure C to furnish 1-(3,4-dimethoxy-phenyl)-3-ethyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (23 mg). LCMS: m/z 408 [M+1]+. 1H NMR (400 MHz, CDCl3): δ 9.64 (s, 1H), 7.11 (m, 2H), 7.00 (s, 1H), 6.91 (m, 2H), 6.60 (s, 1H), 4.20 (q, 2H), 4.09 (s, 3H), 3.99 (s, 3H), 3.86 (s, 3H), and 1.37 (t, 3H) ppm.

reactant | 4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.3 mmol, 89 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C13H12ClNO3
reactant | 3,4-dimethoxy-aniline | COC=1C=C(N)C=CC1OC | C8H11NO2
product | 4-(3,4-dimethoxy-phenylamino)-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 103 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1=CC(=C(C=C1)OC)OC)OC | C21H22N2O5
